US07968746B2
Oxidation as described in protocol B, using 76.7 mg (0.253 mmol) of N-(cyclopropylmethyl)-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide and 435 mg CAN (0.794 mmol) yielded 71.4 mg of N-(cyclopropylmethyl)-2-hydroxy-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow powder.

reactant | N-(cyclopropylmethyl)-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide | 0.253 mmol, 76.7 mg | C1(CC1)CNC(=O)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C18H25NO3
reactant | CAN | 0.794 mmol, 435 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | N-(cyclopropylmethyl)-2-hydroxy-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 71.4 mg | C1(CC1)CNC(C(CCC1=C(C(C(=C(C1=O)C)C)=O)C)(C)O)=O | C18H25NO4
